US04014920
40.5 g (0.25 mol) of 3-allyl-4-hydroxy-benzaldehyde, 10.3 g of sodium acetate, 19.9 g of N-acetylglycine and 63.5 g of acetic anhydride are together heated for 30 minutes to 100°C and then for 21/2 hours to the reflux temperature. The resulting solution is cooled to 0°C and the crystals which have separated out are filtered off, washed with water, dried in a vacuum desiccator and finally recrystallised from carbon tetrachloride. 2-Methyl-4-(4-acetoxy-3-allyl-benzylidene)-5(4H)-oxazolone of melting point 108°-109°C is obtained.

reactant | 3-allyl-4-hydroxy-benzaldehyde | 0.25 mol, 40.5 g | C(C=C)C=1C=C(C=O)C=CC1O | C10H10O2
reactant | sodium acetate | 10.3 g | C(C)(=O)[O-].[Na+]
reactant | N-acetylglycine | 19.9 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | acetic anhydride | 63.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methyl-4-(4-acetoxy-3-allyl-benzylidene)-5(4H)-oxazolone | CC=1OC(C(N1)=CC1=CC(=C(C=C1)OC(C)=O)CC=C)=O | C16H15NO4
